US07470664B2
A solution of N-methylpent-4-en-l-amine (2.0 g, 20.2 mmol) in tetrahydrofuran (20 mL) was stirred at room temperature under nitrogen. To this was added methyl 3-methyl-N-(oxomethylene)-L-valinate (3.5 g, 20.2 mmol) and the resulting solution stirred 2 h. Contents of the reaction flask were evaporated and subjected to flash column chromatography eluting with hexane/ethyl acetate 60/40 to give methyl 3-Methyl-N-{[methyl(pent-4-enyl)amino]carbonyl}-L-valinate as an orange oil, 3.02 g (55% yield).

reactant | N-methylpent-4-en-l-amine | 20.2 mmol, 2.0 g | CNCCCC=C | C6H13N
reactant | methyl 3-methyl-N-(oxomethylene)-L-valinate | 20.2 mmol, 3.5 g | CC([C@H](N=C=O)C(=O)OC)(C)C | C8H13NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 3-Methyl-N-{[methyl(pent-4-enyl)amino]carbonyl}-L-valinate | 55% yield | CC([C@H](NC(=O)N(CCCC=C)C)C(=O)OC)(C)C | C14H26N2O3
